US07741327B2
To a stirred solution of (S)-3-cyclohexyl-2-[4-(3-methoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (1.12 g, 0.003 mol) in tetrahydrofuran-water (3:1, 10 mL) was added lithium hydroxide (387 mg, 0.009 mol). The reaction mixture was stirred at 23° C. for 2 h. After this time, the mixture was concentrated and the reaction mixture was diluted with water. The reaction mixture was acidified with 2N hydrochloric acid, during which time precipitation occurred. The precipitate was removed by filtration, washed with cold water and dried in vacuo to obtain (S)-3-cyclohexyl-2-[4-(3-methoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid (670 mg, 62%) as a light yellow solid.

reactant | (S)-3-cyclohexyl-2-[4-(3-methoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 0.003 mol, 1.12 g | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC1=CC(=CC=C1)OC)=O)=O | C21H27NO5
reactant | lithium hydroxide | 0.009 mol, 387 mg | [OH-].[Li+]
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | (S)-3-cyclohexyl-2-[4-(3-methoxy-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid | 670 mg, 62% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC1=CC(=CC=C1)OC)=O | C20H25NO5
